US08703941B2
Synthesis of 1-N-[2-(3-chlorophenyl)ethyl]-1-N-methyl-4-N-[7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]cyclohexane-1,4-diamine (I-107)
A solution of Compound I-102 (364 mg, 0.80 mmol, 1.00 equiv) in tetrahydrofuran (30 mL) was added dropwise into a solution of lithium aluminium tetrahydride (152 mg, 4.01 mmol, 5.00 equiv) in tetrahydrofuran (20 mL) with stirring at 0-5° C. The resulting solution was stirred for 5 h at 80° C. in an oil bath. The reaction was then quenched by the addition of 5 mL of water. The solids were filtered off. The filtrate was extracted with 3×100 mL of dichloromethane and the organic layers combined and dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was purified by preparative HPLC (2#-Waters 2767-2(HPLC-08)) under the following conditions: column: Xbridge Prep Phenyl, 5 um, 19*150 mm; mobile phase: Water (50 mM ammonium bicarbonate) and acetonitrile (10.0% acetonitrile up to 33.0% in 2 min, up to 53.0% in 8 min, up to 100.0% in 1 min, down to 10.0% in 1 min); detector, UV 220 nm, to yield 20.3 mg (6%) of Compound I-107 as an off-white solid. 1H NMR (400 MHz, CDCl3) δ 8.36 (1H, s), 7.26-7.07 (4H, m), 4.85-4.83 (1H, d), 4.12-4.02 (1H, m), 3.00-2.97 (4H, m), 2.76-2.70 (4H, m), 2.58-2.49 (3H, m), 2.37 (3H, s). 2.27-2.23 (2H, d), 1.94-1.89 (2H, d), 1.71-1.47 (2H, q), 1.29-1.25 (2H, q). MS: m/z 441 (M+H)+.

reactant | 2-(3-chlorophenyl)-N-methyl-N-[4-([7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]amino)cyclohexyl]acetamide | 0.80 mmol, 364 mg, 1.00 equiv | ClC=1C=C(C=CC1)CC(=O)N(C1CCC(CC1)NC1=NC=NC=2SC=3CCCC3C12)C | C24H27ClN4OS
reactant | lithium aluminium tetrahydride | 4.01 mmol, 152 mg, 5.00 equiv | [H-].[H-].[H-].[H-].[Al+3].[Li+]
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
product | 1-N-[2-(3-chlorophenyl)ethyl]-1-N-methyl-4-N-[7-thia-9,11-diazatricyclo[6.4.0.0^[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]cyclohexane-1,4-diamine | 20.3 mg, 6% | ClC=1C=C(C=CC1)CCN(C1CCC(CC1)NC1=NC=NC=2SC=3CCCC3C12)C | C24H29ClN4S
